US08048884B2
Preparation 29: 1-Methyl-1H-pyrazole-4-sulfonyl chloride
Add 1-methyl-1H-pyrazole (100 g, 1.18 mol) dropwise to chlorosulfonic acid (325 mL, 4.84 mol) stirring at 0° C. under nitrogen atmosphere. Heat reaction mixture at 110° C. for 3 hr. Cool to room temperature, then pour carefully into crushed ice with stirring. Recover the resulting white solid by vacuum filtration, wash with water, and dry under vacuum. Use the resulting material (72.2 g, 33%) without further purification.

reactant | 1-methyl-1H-pyrazole | 1.18 mol, 100 g | CN1N=CC=C1 | C4H6N2
reactant | chlorosulfonic acid | 4.84 mol, 325 mL | ClS(=O)(=O)O | ClHO3S
product | 1-Methyl-1H-pyrazole-4-sulfonyl chloride | CN1N=CC(=C1)S(=O)(=O)Cl | C4H5ClN2O2S
